US06498172B1
1-(2-Bromo-ethoxy)-3,5-dichloro-benzene.
To a solution of NaOH (2.45 g, 61.3 mmol) in water (20 mL) was added 3,5-dichlorophenol (5 g, 30.7 mmol). The solution was heated at reflux for 1 h and was cooled to room temperature. 1,2-Dibromoethane (11.52 g, 61.3 mmol) was added and the reaction was heated at reflux for 24 h. The cooled solution was diluted with EtOAc and the organic solution was washed sequentially with HCl (1N, 1×), water (1×), and brine (1×). The organic solution was dried (MgSO4), filtered, and concentrated. Purification by flash chromatography (hexanes to 5% EtOAc in hexanes) provided the title compound (3.79 g). 1H NMR (400 MHz, CDCl3) δ 6.98 (m, 1H), 6.82 (m, 2H), 4.25 (t, 2H), 3.61 (t, 2H).

reactant | NaOH | 61.3 mmol, 2.45 g | [OH-].[Na+]
reactant | 3,5-dichlorophenol | 30.7 mmol, 5 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | 1,2-Dibromoethane | 61.3 mmol, 11.52 g | BrCCBr | C2H4Br2
solvent | water | 20 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-Bromo-ethoxy)-3,5-dichloro-benzene | 3.79 g | BrCCOC1=CC(=CC(=C1)Cl)Cl | C8H7BrCl2O
